US06828330B2
To a stirred solution of dimethyl 4,4′-dithio-bis-(3-nitrobenzoate) (900 mg, 2.12 mmol) in ethanol is added tin powder (1.91 g, 17.0 mmol). The mixture is heated in a 70° C. oil bath for 30 minutes before 2.8 mL of concentrated hydrochloric acid is added drop-wise. After complete addition, the mixture is stirred for an additional 10 min, followed by cooling to RT. The reaction mixture is filtered and the fitrate is concentrated in vacuo to a solid. The solid is washed with 1.0M aqueous hydrochloric acid and dried in vacuo to afford a yellow solid. The solid (750 mg, 3.42 mmol) is suspended in formic acid (4 mL) in a 100° C. oil bath. Zinc dust (15 mg) is added to the reaction. The mixture is stirred for 10 min, followed by cooling to RT. The mixture is diluted with water and extracted with EtOAc. The organic layer is dried over MgSO4, filtered and concentrated in vacuo to afford 640 mg (97%) of methyl 1,3-benzothiazole-5-carboxylate as a yellow solid: 1H NMR (400 MHz, CDCl3) δ 9.1, 8.9, 8.2, 8.1, 4.0.

reactant | dimethyl 4,4′-dithio-bis-(3-nitrobenzoate) | 2.12 mmol, 900 mg | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1SSC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H12N2O8S2
reactant | tin | 17.0 mmol, 1.91 g | [Sn] | Sn
reactant | hydrochloric acid | 2.8 mL | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | formic acid | 4 mL | C(=O)O | CH2O2
solvent | water | O | H2O
catalyst | Zinc | 15 mg | [Zn] | Zn
product | methyl 1,3-benzothiazole-5-carboxylate | 640 mg, 97% | S1C=NC2=C1C=CC(=C2)C(=O)OC | C9H7NO2S
